Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Magnesium
 
Attending: ___.
 
Chief Complaint:
1 week of weakness, diarrhea, and acute kidney injury Cr 8.3 OSH
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
History of Present Illness: This is an ___ with PMH CAD s/p CABG 
p/w watery diarrhea x 1wk, nausea and dehydration. Overall, she 
could not even count how many times she had the diarrhea. The 
diarrhea stopped yesterday. Since then she had a normal bowel 
movement. Presented to PCP this AM with severe weakness and 
found to have acute renal insufficiency with creatinine of 8.30 
(baseline 1.1), K 4.5. PCP called ___ nephrologist ___ 
who recommended pt come to ED. Creatinine in ED 2.3, BUN 53, K 
stable at 4.1. In terms of sick contacts, there are none. Lives 
by herself. In terms of pains, she reported no abdominal pain at 
all, no bloating.
Of note, she fell down last week, she remembers the episode, 
just remembers feeling very weak. Did not hit head, fell twice, 
once outside. No injuries reported. "My legs just gave in"
In the ED, initial vital signs were 98 79 141/73 16 100%RA. Labs 
notable for creat 2.3, wbc 13.5, plt 244, urine with glucosuria, 
few bacteria, wbc 2, and trace protein. Exam notable for guaiac 
positive stool on rectal exam.
On arrival to the floor vitals 98.1-124/66 81 - 20 - 99%RA. 
Alert and Oriented x3. She tells me she feels much better now.
Review of Systems:
(+)
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria.

 
Past Medical History:
CAD s/p CABG ___. Grafts: Left internal
mammary artery to the left anterior descending; saphenous vein
graft to the marginal branch of the posterior descending artery.
DM (diabetes mellitus), type 2
hypertension-essential
hypercholesterolinemia
osteoporosis, unspecific
thrombocytosis, unspec
leukocytosis
myeloproliferative disease
Obesity
Chronic kidney disease, stage III (moderate)
Vitamin D deficiency
Proximal phalanx fracture, RSF
Falls

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
Physical Exam:
Vitals-98.1-124/66 81 - 20 - 99%RA
General- Alert, oriented, no acute distress
HEENT- Sclera anicteric, MMM, oropharynx clear
Neck- supple, JVP not elevated, no LAD
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU- no foley
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- CNs2-12 intact, motor function grossly normal

Vitals-   97.6 106/49 100-145/50-60s hr 68 rr 18 99RA
unchanged from admission
 
Pertinent Results:
ADMISSION LABS:

___ 04:45PM BLOOD WBC-13.5* RBC-3.55*# Hgb-11.7*# Hct-36.0# 
MCV-102* MCH-32.9* MCHC-32.4 RDW-18.7* Plt ___
___ 04:45PM BLOOD Neuts-74.6* ___ Monos-3.9 Eos-0.6 
Baso-0.4
___ 07:00AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Spheroc-OCCASIONAL 
Schisto-OCCASIONAL Burr-1+
___ 04:45PM BLOOD Plt ___
___ 04:45PM BLOOD Glucose-246* UreaN-53* Creat-2.3*# Na-134 
K-4.1 Cl-100 HCO3-21* AnGap-17
___ 04:45PM BLOOD ALT-8 AST-14 AlkPhos-80 TotBili-0.4
___ 04:45PM BLOOD Albumin-4.0
___ 07:00AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.5*
___ 07:44AM BLOOD Lactate-1.0

DISCHARGE LABS:

___ 07:24AM BLOOD WBC-11.9* RBC-2.88* Hgb-9.7* Hct-29.3* 
MCV-102* MCH-33.9* MCHC-33.3 RDW-19.1* Plt ___
___ 12:50PM BLOOD Hypochr-OCCASIONAL Anisocy-1+ Poiklo-1+ 
Macrocy-2+ Microcy-NORMAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Schisto-OCCASIONAL Burr-1+ Tear Dr-OCCASIONAL
___ 07:24AM BLOOD Plt ___
___ 07:24AM BLOOD ___ PTT-30.9 ___
___ 07:24AM BLOOD Glucose-74 UreaN-38* Creat-1.4* Na-140 
K-3.7 Cl-109* HCO3-24 AnGap-11
___ 07:24AM BLOOD LD(LDH)-149 TotBili-0.4
___ 07:24AM BLOOD Calcium-8.8 Phos-3.0 Mg-1.4*
___ 07:24AM BLOOD VitB12-523 Folate-9.2 Hapto-187
___ 07:44AM BLOOD Lactate-1.___ with PMH CAD s/p CABG p/w diarrhea x 1wk, nausea and 
dehydration found to have Cr 8.3 at ___'s office with likely 
viral gastroenteritis and hypovolemia.
.
___: Pt with Cr 8.3 at ___ office from baseline of 1.1. Cr 
downtrended to 1.8 after IVF. Cr 8.3 at ___ office may represent 
some lab error given improvement to 2.3 without intervention. 
Likely prerenal in setting of dehydration. ___ Cr downternded 
to 1.4 with IVF. 
.
#Diarrhea: Pt with diarrhea and nausea x 1 week. No recent abx. 
Continues this AM after admissions, happens all day including 
overnight. Guaiac positive with stable HCT.  No recent travel, 
unusual food intake, or sick contacts. Initial, ddx included 
gastroenteritis, norovirus. LFTs WNL. WBC is likely from MDS and 
not infectious given no fevers. Diarrhea resolved/slowed on 
discharge. Pt was counseled to maintain good PO intake. 
.
#) Anemia: Macrocystosis, stable. B12, folate were within normal 
limits. Blood smear was performed and showed occasional 
schistocytes and spherocytes without elevated TBili, LDH, (hapto 
pending). Not concerned for hemolytic process.
.
#Leukocytosis: Pt with WBC to 15.6, afebrile, UA bland with 
myeloproliferative disorder. More likely elevated from heme 
process than infectious. Since pt did not have any signs or 
symptoms of infection, and lactate WNL, pt was not treated with 
antibiotics.
.
CHRONIC ISSUES
CAD: s/p CABG in ___ with graft x 3. Currently chest pain free. 
Pt was continued on home atorvastatin, metoprolol, aspirin. 
Spironolactone and hctz were held during admission and at 
discharge given concern for hypovolemia.
.
DMII: On lantus, glipizide at home. Hg1A1C 8.0 on ___. Pt was 
continued on home lantus and glipizide at discharge.
.
TRANSITION ISSUES
# Code: Full Code (Confirmed with patient)
# CONTACT: patient, HCP, ___, neice, Phone 
number: ___
# please trend Cr for resolution to baseline ___ likely from 
hypovolemia
# Re-consider whether patient needs to restart on hctz and 
spironolactone

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxyurea 500 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
hold for SBP<120 
3. Metoprolol Tartrate 25 mg PO TID 
hold for SBP<110, HR <60 
4. Atorvastatin 40 mg PO DAILY 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Spironolactone 25 mg PO DAILY 
hold for SBP<110, HR<60
 
7. Nitroglycerin SL 0.4 mg SL PRN chest pain 
8. Aspirin 81 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Glargine 10 Units Bedtime
11. Docusate Sodium 100 mg PO BID 
12. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Hydroxyurea 500 mg PO DAILY 
4. Glargine 10 Units Bedtime
5. Metoprolol Tartrate 25 mg PO TID 
hold for SBP<110, HR <60 
6. Multivitamins 1 TAB PO DAILY 
7. Nitroglycerin SL 0.4 mg SL PRN chest pain 
8. Docusate Sodium 100 mg PO BID 
9. Calcium Carbonate 500 mg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you were having diarrhea, 
poor appetite, and found to have acute kidney injury from being 
dehydrated. We gave you fluids intravenously, and your kidney 
lab tests improved. Your diarrhea resolved. It is very important 
that you continue to take plenty of fluids by mouth as long as 
your stools are loose or watery.

We would like you to stop taking hydrochlorothiazide and 
spironolactone, because these medications can worsen your 
dehydration.
 
Followup Instructions:
___